US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-7-amino-1-benzofuran-2-carboxamide
6.0 ml (12 mmol) of a 2 M tin(II) chloride solution in DMF are added to N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-7-nitro-1-benzofuran-2-carboxamide (1340 mg, 4.25 mmol). The mixture is stirred overnight. The solvent is removed under reduced pressure using a rotary evaporator. The crude product is taken up in methanol and, together with acidic ion exchange resin (Dowex WX2-200), shaken for about 1 h. The loaded ion exchanger is washed with methanol, then with water, again with methanol, with DMF, again with methanol, with THF, again with methanol, with dichloromethane and finally once more with methanol. The product is eluted with methanol/triethylamine 95:5. The solvent is removed under reduced pressure using a rotary evaporator. 1200 mg (98% of theory) of the title compound are obtained.

reactant | tin(II) chloride | 2 M | [Sn](Cl)Cl
reactant | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-7-nitro-1-benzofuran-2-carboxamide | 4.25 mmol, 1340 mg | N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC1=C(C2)C=CC=C1[N+](=O)[O-] | C16H17N3O4
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-7-amino-1-benzofuran-2-carboxamide | N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC1=C(C2)C=CC=C1N | C16H19N3O2
